US04111936
4-Chlorphenol was reacted with succinic anhydride and aluminium chloride in a similar manner to the procedure described in Example 8 (i) to give 3-(5-chloro-2-hydroxybenzoyl)propionic acid (49%, m.p. 172°-173° C). (Found: M+, 228/230. C10H9Cl O4 requires: M, 228/230). (ii) 3-(5-Chloro-2-hydroxybenzoyl)propionic acid was esterified with methanol-hydrogen chloride in a similar manner to the procedure described in Example 1 (i) to give methyl 3-(3-chloro-2-hydroxybenzoyl)propionate (75%).

reactant | 4-Chlorphenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 3-(5-chloro-2-hydroxybenzoyl)propionic acid | 49% | ClC=1C=CC(=C(C(=O)CCC(=O)O)C1)O | C10H9ClO4
